US07687491B2
(19b) (5-{5-[4-(2-Chlorophenoxy)phenyl]-1,2,4-oxadiazol-3-yl}-4-ethyl-2-thienyl)methanol
The crude product of the title compound was synthesized by conducting the reaction similar to that mentioned in Example 10 (10f) using 5-({[t-butyl(dimethyl)silyl]oxy}methyl)-3-ethyl-N′-hydroxythiophene-2-carboximidamide (0.16 g, 0.50 mmol) that was obtained in Example 10 (10d), 4-(2-chlorophenoxy)benzoic acid (0.14 g, 0.55 mmol) that was obtained in Example 19 (19a), dicyclohexylcarbodiimide (0.11 g, 0.55 mmol), and 1.0 M solution of tetrabutylammonium fluoride in tetrahydrofuran (0.75 mL, 0.75 mmol). Subsequently, the crude product of the title compound thus obtained was purified by chromatography on a silica gel column using a mixed solvent of ethyl acetate and hexane (3:7 to 5:5) as the eluent to afford the title compound (0.19 g) in a yield of 92% as a white crystalline solid.

reactant | 5-({[t-butyl(dimethyl)silyl]oxy}methyl)-3-ethyl-N′-hydroxythiophene-2-carboximidamide | 0.50 mmol, 0.16 g | [Si](C)(C)(C(C)(C)C)OCC1=CC(=C(S1)C(N)=NO)CC | C14H26N2O2SSi
reactant | 4-(2-chlorophenoxy)benzoic acid | 0.55 mmol, 0.14 g | ClC1=C(OC2=CC=C(C(=O)O)C=C2)C=CC=C1 | C13H9ClO3
reactant | dicyclohexylcarbodiimide | 0.55 mmol, 0.11 g | C1(CCCCC1)N=C=NC1CCCCC1 | C13H22N2
reactant | tetrabutylammonium fluoride | [F-].C(CCC)[N+](CCCC)(CCCC)CCCC
reactant | tetrahydrofuran | 0.75 mmol, 0.75 mL | O1CCCC1 | C4H8O
product | (5-{5-[4-(2-Chlorophenoxy)phenyl]-1,2,4-oxadiazol-3-yl}-4-ethyl-2-thienyl)methanol | ClC1=C(OC2=CC=C(C=C2)C2=NC(=NO2)C2=C(C=C(S2)CO)CC)C=CC=C1 | C21H17ClN2O3S
